US07183306B2
To a suspension of 5-[4-(benzyloxy)phenyl]-3-hydroxy-1-(4-methoxyphenyl)-1H-pyrazole 2.0 g and K2CO3 2.23 g in DMSO 20 ml was added diethylsulfate 1.24 g. After stirring at ambient temperature for 2 hours, the reaction was quenched by adding 28% aqueous ammonium hydroxide solution and ice. The mixture was partitioned between AcOEt and H2O. The organic layer was washed with H2O and saturated aqueous sodium chloride solution, dried over magnesium sulfate, and concentrated in vacuo. The residue was purified by silica gel column chromatography eluted with AcOEt/n-hexane=40% and the solvent was evaporated in vacuo. The reisual solid was recrystallized from IPE to give 5-[4-(benzyloxy)phenyl]-3-ethoxy-1-(4-methoxy-phenyl)-1H-pyrazole 1.44 g as a powder.

reactant | 5-[4-(benzyloxy)phenyl]-3-hydroxy-1-(4-methoxyphenyl)-1H-pyrazole | 2.0 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C1=CC(=NN1C1=CC=C(C=C1)OC)O | C23H20N2O3
reactant | K2CO3 | 2.23 g | C(=O)([O-])[O-].[K+].[K+]
reactant | diethylsulfate | 1.24 g | C(C)OS(=O)(=O)OCC | C4H10O4S
solvent | DMSO | 20 ml | CS(=O)C | C2H6OS
product | 5-[4-(benzyloxy)phenyl]-3-ethoxy-1-(4-methoxy-phenyl)-1H-pyrazole | 1.44 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C1=CC(=NN1C1=CC=C(C=C1)OC)OCC | C25H24N2O3
